US04851519
0.25 g of 5'-[2-(4-benzyloxy-2,6-dimethylphenyl)acetamido]-2',5'-dideoxy-5-ethyluridine was stirred as a slurry in 5 ml of dry pyridine with 0.4 ml of acetic anhydride for 72 hours. The resulting solution was evaporated in vacuo and the residue was re-evaporated three times with toluene. After trituration with diethyl ether and filtration there was obtained 0.22 g of crude product of melting point 188°-191° C. Recrystallization from a mixture of 4 ml of methylene chloride and 4 ml of petroleum ether gave 0.20 g of pure 3'-O-acetyl-5'-[2-(4-benzyloxy-2,6-dimethylphenyl)acetamido]-2',5'-dideoxy-5-ethyluridine of melting point 194°-196° C. (dec).

reactant | 5'-[2-(4-benzyloxy-2,6-dimethylphenyl)acetamido]-2',5'-dideoxy-5-ethyluridine | 0.25 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)CC(=O)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O)C | C28H33N3O6
reactant | acetic anhydride | 0.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3'-O-acetyl-5'-[2-(4-benzyloxy-2,6-dimethylphenyl)acetamido]-2',5'-dideoxy-5-ethyluridine | 0.20 g | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1CNC(CC1=C(C=C(C=C1C)OCC1=CC=CC=C1)C)=O)N1C(=O)NC(=O)C(=C1)CC | C30H35N3O7
